US06313132B1
34.3 N,N-Diisopropyl-3-ethoxycarbonyl-3-phenylpropanamine
N,N-Diisopropyl-3-carbamyl-3-phenylpropanamine (26.5 g 0.100 mol) was added into aqueous ethanol (90%, 300 mL) containing conc. HNO3 (13.3 g, 0.21 mol) and refluxed for five days. Most of the solvent was evaporated under reduced pressure and the residue was mixed with water/diethyl ether. The organic phase was washed once with water. The combined aqueous phases were made alkaline (11 M NaOH) and extracted twice with diethyl ether. The combined organic phases were then dried (Na2SO4) and the solvent evaporated. The crude product was chromatographed on silica (petroleum ether-triethylamine, 97/3), to afford the title compound as a colourless liquid, 20.1 g (68.7%): 1H NMR (CDCl3) δ0.96 (m, 12H), 1.21 (t, 3H), 1.81 (m, 1H), 2.22 (m, 1H), 2.40 (t, 2H), 3.66 (dd, 1H), 4.12 (m, 2H), 7.20-7.32 (m, 5H).

reactant | N,N-Diisopropyl-3-carbamyl-3-phenylpropanamine | 0.100 mol, 26.5 g | C(C)(C)N(CCC(C1=CC=CC=C1)C(N)=O)C(C)C | C16H26N2O
reactant | HNO3 | 0.21 mol, 13.3 g | [N+](=O)(O)[O-] | HNO3
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | N,N-Diisopropyl-3-ethoxycarbonyl-3-phenylpropanamine | C(C)(C)N(CCC(C1=CC=CC=C1)C(=O)OCC)C(C)C | C18H29NO2
